US09399640B2
Step 3. 6-Bromo-7-chloro-2,5-dimethylpyrazolo[1,5-a]pyrimidine
Pyridine (0.179 mL, 2.22 mmol) was added dropwise to a solution of 6-bromo-2,5-dimethylpyrazolo[1,5-a]pyrimidin-7(4H)-one (0.179 g, 0.739 mmol) in phosphoryl chloride (1.85 mL, 19.8 mmol) and 1,2-dichloroethane (1.85 mL). The resultant reaction mixture was stirred at RT for 15 min, then warmed to 80° C. and stirred at that temperature for 15 h. The reaction mixture was concentrated in vacuo to yield a crude residue which was diluted with dichloromethane and the resultant solution was added dropwise to a saturated solution of sodium bicarbonate (40 mL) at 0° C. Additional dichloromethane (50 mL) was added, layers were separated and the organic layer was dried with sodium sulfate, filtered, and concentrated in vacuo to give a crude residue. Purification by flash column chromatography (100% hexanes to 30% EtOAc/hexanes) gave the desired product (171 mg, 89%) as a white solid. LCMS calculated for C8H8BrClN3 (M+H)+: m/z=260.0, 262.0. found: 259.9, 261.9.

reactant | Pyridine | 2.22 mmol, 0.179 mL | N1=CC=CC=C1 | C5H5N
reactant | 6-bromo-2,5-dimethylpyrazolo[1,5-a]pyrimidin-7(4H)-one | 0.739 mmol, 0.179 g | BrC1=C(NC=2N(C1=O)N=C(C2)C)C | C8H8BrN3O
reactant | phosphoryl chloride | 19.8 mmol, 1.85 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 1.85 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-Bromo-7-chloro-2,5-dimethylpyrazolo[1,5-a]pyrimidine | 171 mg, 89% | BrC=1C(=NC=2N(C1Cl)N=C(C2)C)C | C8H7BrClN3
